US07018988B2
(2S,4EZ)-4-[(allyloxy)imino]-N-(3,4-dimethoxybenzyl)-1-(diphenylacetyl)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-4-[(allyloxy)-imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid, diphenylacetyl chloride, and 3,4-dimethoxybenzylamine the title compound was obtained in 63% purity by LC/MS. MS(ESI+): m/z=528.4.

reactant | (2S,4EZ)-4-[(allyloxy)-imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid | C(C=C)ON=C1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)O | C13H20N2O5
reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | 3,4-dimethoxybenzylamine | COC=1C=C(CN)C=CC1OC | C9H13NO2
product | (2S,4EZ)-4-[(allyloxy)imino]-N-(3,4-dimethoxybenzyl)-1-(diphenylacetyl)-2-pyrrolidinecarboxamide | C(C=C)ON=C1C[C@H](N(C1)C(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)NCC1=CC(=C(C=C1)OC)OC | C31H33N3O5
